Name:  ___            Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROSURGERY
 
Allergies: 
Prednisone / Latex / Lactose / Mirapex / doxycycline
 
Attending: ___.
 
Chief Complaint:
Intraventricular hemorrhage
 
Major Surgical or Invasive Procedure:
___ R EVD placed
___ Angio- dural av fistula
___ Angio for embolization Post Meningeal Branch
___ Replacement of R EVD
___ Embolization of Dural AV fistula
___ PEG insertion

 
History of Present Illness:
This is a ___ year old female found down by her roommate in the 
bathroom on
the ground with emesis. Roommate stated that the patient may 
have
taken some Percocet. EMS called and patient taken to ___. Upon arrival patient was obtunded, received Narcan 
with
no improvement and was intubated for airway protection and
underwent a head CT which revealed a hemorrhage. 

 
Past Medical History:
ADHD
Cholecystectomy
appendectomy
c-section
partial face lift

 
Social History:
___
Family History:
Non-contributory
 
Physical Exam:
On the day of admission:
PHYSICAL EXAM:
O: T:  BP: 139 / 94        HR:89    R 18      O2Sats 100 CMV

Gen: Intubated and sedated w propofol
HEENT: No visible sign of trauma
Lungs: CTA bilaterally.
Cardiac: RRR. S1/S2.
Abd: Soft
Extrem: Warm and well-perfused.

Neuro:

Mental status: Intubated, +/- weak eye opening

Cranial Nerves:
I: Not tested
II: Pupils equally round and reactive to light 7mm to 5mm
bilaterally.

Motor: Moves lower extremities spontaneously, flex to nox
bilateral upper extremities.

Upon discharge:
Awake, alert, oriented to self, ___.  Intermittently 
following simple commands.  PERRL.  No facial droop.  Moves all 
extremities with good strength.  Unable to assess individual 
motor groups due to lack of cooperation.
 
Pertinent Results:
___ CTA:
Intraventricular and subarachnoid hemorrhage is unchanged.  CT 
vessels no 
evidence of vascular occlusion, stenosis, dissection, or 
abnormal vascular structures or aneurysm greater than 3 mm in 
size. 
  
This report is provided without 3D and curved reformats.  When 
these images are available, and if additional information is 
obtained, then an addendum may be given to this report. 

___ CT head s/p EVD placement:
1. Right frontal approach ventriculostomy catheter in 
appropriate position
with interval decrease in the lateral ventricle sizes.  No 
evidence of new hemorrhage. 
2. Stable multi-compartment intracranial hemorrhage. 

___ CT Head:
Diffuse intraventricular hemorrhage.  Increase in ventricular 
size 
particularly of the temporal horns slightly compared with the 
previous CT of ___. 

EEG ___ 
This EEG telemetry is abnormal for generalized background 
slowing 
and rhythmic delta activity are indicative of global cerebral 
dysfunction and consistent with a mild moderate encephalopathy 
of nonspecific etiology. The pushbutton events have no overt 
electrographic correlate. Of note, the more rhythmic bifrontal 
activity, sometimes with sharper features, may correspond to 
periods when propofol was reduced, but this is not known for 
certain. Results of this study were relayed to the primary 
caregivers in real time. 

MRA BRAIN W/O CONTRAST ___ 
1. Diffuse intraventricular hemorrhage, unchanged in 
configuration from prior CT examinations. There is 
ventriculomegaly, unchanged from exam of ___ but 
significantly increased since exam of ___. 
2. There are foci of slow diffusion involving the left frontal 
medial cortex as well as along the white matter of the posterior 
horn of the left lateral ventricle, likely representing late 
acute to subacute infarcts. 

CAROTID/CEREBRAL ARTERIOGRAM ___
1. Evolution and decrease in extent of intraventricular 
hemorrhage. No new area of hemorrhage or recent infarct is seen. 
Significant interval decrease in ventricular dilation. 
2. Stable location of right ventriculostomy catheter with tip 
terminating in the foramen of ___. 
3. Resolving posterior falcine subdural hematoma. 

Head CT: ___
1. Interval placement of new right ventriculostomy catheter 
which terminates in the body of the right lateral ventricle. 
2. No interval change in resolving posterior falcine subdural 
hematoma or 
known evolving intraventricular hemorrhage. 
 
CEREBRAL EMBO ___ 
1.  ___ type 3 dural AV fistula now continuing to be fed from 
distal PCA branches that feed into an early draining vein that 
drains into the straight sinus.  Previously, this has been 
drained by middle meningeal branches and Onyx embolization, has 
occluded the middle meningeal on the right with no longer 
filling of the fistula from these vessels. 
2.  No evidence of thromboembolic complications 

CT HEAD W/O CONTRAST ___ 
Intraventricular hemorrhage and a small posterior falcine 
subdural hematoma are stable from the prior exam. No evidence of 
new hemorrhage or acute territorial infarction. 

PORTABLE HEAD CT W/O CONTRAST  ___ 
 IMPRESSION: 
1. Decreased ventricular caliber status the prior study. 
2. No new evidence of infarction or new hemorrhage.  Continued 
evolution of prior known intraventricular hemorrhage and 
subdural hematoma. 

___ CXR
A nasogastric tube terminates within the stomach.  The heart 
size is normal.  The hilar and mediastinal contours are within 
normal limits.  Mild atherosclerotic calcifications are seen 
within the aortic arch.  There is no pneumothorax, focal 
consolidation, or pleural effusion. 

___ Non-contrast head CT:
1. No evidence for acute intracranial injury. 
2. Small amount of blood in the occipital horns of lateral 
ventricles has 
decreased since ___. Small amount of residual 
subdural blood may be present along the posterior falx. 
3. The ventricles have slightly increased in size compared to ___, s/p interim removal of the right ventriculostomy 
catheter. 

___ Non-contrast Cervical spine CT
1.  No fracture or acute subluxation. 
2.  Multilevel degenerative disease. 
3.  Mixed solid/ ground-glass spiculated lesion in the apical 
left upper lobe, highly concerning for malignancy. If this has 
not been previously worked up elsewhere, PET-CT and surgical 
consultation should be considered. 
4.  8 mm left lobe thyroid nodule, which should be further 
assessed by 
ultrasound if not previously performed elsewhere. 

___ CXR
No fractures or acute cardiopulmonary abnormalities.If clinical 
symptoms 
persist, dedicated rib series is recommended due to higher 
sensitivity of that technique. 

___ CT chest with contrast
Spiculated left apical semi-solid lesion concerning for lung 
malignancy.

___ CT abdomen and pelvis
1. No evidence of metastatic disease in the abdomen or pelvis 
2. 1.7 x 1.8 cm left adnexal cystic structure.  If patient is to 
receive 
followup CT abdomen and pelvis examinations, this finding may be 
re-evaluated in ___ year. If patient will not have CT abdomen and 
pelvis performed in ___ year, pelvic ultrasound examination is 
recommended in ___ year to re-evaluate left adnexa. 
3. Trace amounts of intraperitoneal free air likely related to 
recent 
gastrostomy tube placement. 
4. 2- 3 mm hypodensities in the pancreatic head likely represent 
small IPMN. 
5. Please see separate dictation for dedicated CT chest report. 

___ 06:20AM BLOOD WBC-20.2* RBC-3.69* Hgb-11.4* Hct-33.9* 
MCV-92 MCH-30.9 MCHC-33.7 RDW-15.1 Plt ___
___ 06:09AM BLOOD WBC-14.2* RBC-3.86* Hgb-11.6* Hct-36.2 
MCV-94 MCH-30.1 MCHC-32.2 RDW-15.3 Plt ___
___ 06:42AM BLOOD WBC-10.4 RBC-3.97* Hgb-11.9* Hct-35.7* 
MCV-90 MCH-29.9 MCHC-33.2 RDW-14.8 Plt ___
___ 10:46AM BLOOD WBC-11.6* RBC-3.70* Hgb-11.2* Hct-33.8* 
MCV-91 MCH-30.3 MCHC-33.2 RDW-14.9 Plt ___
___ 01:14AM BLOOD WBC-12.6* RBC-3.51* Hgb-10.5* Hct-31.8* 
MCV-91 MCH-30.0 MCHC-33.2 RDW-14.8 Plt ___
___ 02:24AM BLOOD WBC-13.2* RBC-3.11* Hgb-9.5* Hct-27.7* 
MCV-89 MCH-30.5 MCHC-34.2 RDW-14.1 Plt ___
___ 01:04AM BLOOD WBC-13.2* RBC-3.07* Hgb-9.2* Hct-27.2* 
MCV-89 MCH-29.9 MCHC-33.7 RDW-14.0 Plt ___
___ 02:07AM BLOOD WBC-13.4* RBC-3.36* Hgb-10.2* Hct-29.7* 
MCV-89 MCH-30.3 MCHC-34.2 RDW-13.8 Plt ___
___ 02:38AM BLOOD WBC-12.1* RBC-3.23* Hgb-9.7* Hct-29.0* 
MCV-90 MCH-30.0 MCHC-33.5 RDW-14.2 Plt ___
___ 02:03AM BLOOD WBC-15.4* RBC-3.73* Hgb-11.2* Hct-33.2* 
MCV-89 MCH-30.1 MCHC-33.8 RDW-14.1 Plt ___
___ 11:30AM BLOOD Neuts-92.7* Lymphs-2.4* Monos-4.2 Eos-0.7 
Baso-0.1
___ 06:09AM BLOOD ___ PTT-25.5 ___
___ 06:09AM BLOOD Glucose-143* UreaN-21* Creat-0.6 Na-133 
K-4.4 Cl-97 HCO3-27 AnGap-13
___ 06:42AM BLOOD Glucose-150* UreaN-14 Creat-0.6 Na-134 
K-3.9 Cl-95* HCO3-26 AnGap-17
___ 02:07AM BLOOD Glucose-145* UreaN-14 Creat-0.6 Na-136 
K-3.5 Cl-101 HCO3-23 AnGap-16
___ 01:14AM BLOOD Glucose-122* UreaN-11 Creat-0.5 Na-136 
K-3.7 Cl-101 HCO3-26 AnGap-13
___ 02:24AM BLOOD Glucose-115* UreaN-7 Creat-0.5 Na-139 
K-3.8 Cl-102 HCO3-27 AnGap-14
___ 06:09AM BLOOD Calcium-9.8 Phos-4.6* Mg-2.6
___ 06:42AM BLOOD Calcium-9.5 Phos-3.8 Mg-2.4
___ 02:07AM BLOOD Calcium-8.5 Phos-3.0 Mg-2.2
___ 01:14AM BLOOD Calcium-8.8 Phos-2.6* Mg-2.2
___ 02:24AM BLOOD Calcium-8.3* Phos-2.9 Mg-2.4
 
Brief Hospital Course:
Ms. ___ was transferred to ___ for neurosurgical 
evaluation.  She was admitted to the Neurosurgical ICU and a 
right frontal EVD was placed. A CTA was done that showed no 
evidence of a vascular lesion. She remained stable overnight 
into ___.

On morning rounds on ___ she was noted to be following commands 
with all 4 extremities, as well as opening her eyes to voice. 
Her ICPs remained less than 20, her EVD remained at 15, and she 
was awaiting an MRI for prognostication. Her son was consented 
for a diagnostic cerebral angiogram and she was pre-oped for it 
with plan for it to be done on ___. Later in the day she had a 
loss of 25cc of CSF during positioning for a procedure which was 
aborted and EVD leveled appropriately. Later on she was noticed 
to have horizontal nystagmus and some LUE twitching. She 
received ativan with good effect. Neurology was consulted and 
EEG was started. Her keppra was increased to 1000mg BID. She was 
noted to be posturing intermittently and a STAT CT was obtained 
which was stable. Later in the evening her exam improved and she 
was localizing with her uppers and withdrawing her lowers. 

On ___ she was awaiting MRI and angiogram. Her exam remained 
stable and per neurology her Keppra was increased to 1500mg BID. 
 

On ___, she was unchanged on exam. She awaits angiogram.

On ___, she was stable.

On ___, she was taken to angiogram for partial embolization of 
the posterior meningeal branch. Post operatively, she was not 
moving her BUE to noxious, BLE w/d to noxious and EO to stimuli. 
Her EVD remains at 15.

On ___, on examination, patient spontaneous with LUE and 
extending RUE. BLE w/d briskly to noxious stimuli. She was made 
NPO in preparation for angiogram on ___. EVD was raised to 20 
in attempts to wean. 

On ___, the patient was febrile, cultures were sent and patient 
was given Tylenol. CSF was also sent and showed no growth at 
this time. Her exam was poor and EVD output was very low, a stat 
head CT was done which showed that the EVD catheter was placed 
in the correct position and the IVH was redistributed. A clamp 
trial was attempted and her ICP elevated to 38 and drain was 
opened. No output was seen from the EVD and the EVD was 
replaced. Repeat head CT showed good position of EVD.

On ___, the patient's examination improved. Her EVD was left 
open at 20 and ICPs were within the normal range. The EVD 
drained briskly throughout the day. She will undergo an 
angiogram tomorrow. She was extubated in the afternoon but 
became stridorous and required re-intubation. 

On ___, the patient's neurologic examination remained stable. 
She spiked fevers to 102 overnight. Her EVD remained open at 20 
and her ICPs were all within normal limits. Her urine was 
positive for Enterococcus and her antibiotic regimen was changed 
to Ampicillin. She underwent a BAL and the cultures remain 
pending at this time. The patient was taken back to the angio 
suite for further embolization of her Dural AV Fistula and 
collateral vessels were noted. It was determined further 
intervention will be necessary in the near future. 

On ___, the patient was extubated and EVD was clamped. 

On ___, the patients neurologic status has improved, external 
ventricular drain remained clamped. The patient was slightly 
confused, and repeat head CT suggests slightly larger ventricles

On ___, the patient was alert, neurological exam was improved. 
A repeat non contrast head CT was stable. The patient's external 
ventricular drain was removed, and a sample of CSF fluid was 
sent for culture routinely. The patient was mobilized out of bed 
to the chair. The daughters were updated at the bedside by the 
neurosurgical team.

On ___, the patient was alert, eyes open to voice, EOMs grossly 
intact, patient localizes bilateral upper extremities, and 
withdraws BLE to pain, patient non verbal. The patient was 
called out to the step down unit, awaiting a bed. ___/ OT 
evaluated the patient and recommended rehab. Speech therapy 
consult was placed to evaluate the patients swallow mechanism. 
The patient completed a course of ampicillin for UTI today. 
Foley catheter was changed today. 

Mrs. ___ was transferred to the step-down unit on ___.  
Both physical and occupational therapy were consulted and 
recommended discharge to a rehabilitation facility.  The patient 
was found to have a urinary tract infection and was started on a 
course of ampicillin.  Her Foley catheter was changed.

Between ___ and ___, Mrs. ___ continued to recover 
well.  Because the patient was unable to swallow and therefore, 
had a PEG inserted by ACS on ___.  Tube feeds were started the 
following day.

On the early morning of ___, the patient sustained an 
unwitnessed fall out of bed.  A non-contrast head CT was 
obtained and showed no acute intracranial process.  A 
non-contrast C-spine CT was also obtained and showed no acute 
fracture or subluxation.  Incidentally, however, that exam 
showed a concerning lesion in the apex of the left upper lung.  
As a result, a CT torso was obtained to assess for any possible 
metastatic disease.  

Mrs. ___ was discharged to a rehabilitation facility on 
___. She was afebrile, hemodynamically and neurologically 
stable.  Her course of vancomycin used to treat MRSA pneumonia 
was completed (7 day course).  Her CXR showed no infiltrates and 
the patient was afebrile for at least 72 hours.  Per discharge 
instructions, the patient should follow up with Dr. ___ 
service in approximately one month.  At that time, planning will 
be discussed for surgical resection of her dural AV fistula.
 
Medications on Admission:
Per OMR:
Medications - Prescription
ALBUTEROL SULFATE - albuterol sulfate HFA 90 mcg/actuation
aerosol inhaler. 2 puffs inhaled q4-6 hr as needed for wheeze,
shortness of  breath
BUDESONIDE [PULMICORT FLEXHALER] - Pulmicort Flexhaler 90
mcg/actuation breath activated. 1 inh(s) inhaled twice a day
ESTRADIOL [VAGIFEM] - Vagifem 10 mcg vaginal tablet. as directed 

-  (Prescribed by Other Provider)
ESTROGEN-PROGESTERONE-TESTOSTERONE CREAM - Dosage uncertain - 
(Prescribed by Other Provider)
FLUTICASONE - fluticasone 50 mcg/actuation nasal
spray,suspension. 2 sprays in each nostril once a day -  (Not
Taking as Prescribed)
METHYLPHENIDATE - methylphenidate 5 mg tablet. 1 Tablet(s) by
mouth up to three times a day with some food No to be taken 
after
5 ___

Medications - OTC
CHLORPHENIRAMINE MALEATE - chlorpheniramine ER 12 mg
tablet,extended release. 1 tablet(s) by mouth twice a day
MULTIVITAMIN - Dosage uncertain -  (OTC)
PSEUDOEPHEDRINE HCL [LONG ACTING NASAL DECONG (PSE)] - Long
Acting Nasal Decongestant (PSE) 120 mg tablet,extended release. 
1
tablet(s) by mouth twice a day
SODIUM BICARBONATE - Dosage uncertain -  (OTC)
VIT B COMP-C-FA-IRON-VIT E [VITAMIN B COMPLEX] - Dosage 
uncertain
-  (OTC)
VITAMIN B12-FOLIC ACID - Dosage uncertain -  (OTC)
 
Discharge Medications:
1. Acetaminophen (Liquid) 650 mg PO Q6H:PRN fever 
2. Bisacodyl 10 mg PO/PR DAILY 
3. Docusate Sodium 100 mg PO BID 
4. Heparin 5000 UNIT SC TID 
5. LeVETiracetam 1500 mg PO BID 
6. Senna 8.6 mg PO BID 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Dural AV fistula
Hydrocephalus
Respiratory failure
Altered mental status
Pneumonia

 
Discharge Condition:
Mental Status: Confused - always.
Level of Consciousness: Alert and interactive.
Activity Status: Out of Bed with assistance to chair.

 
Discharge Instructions:
Medications:
• Take Aspirin 325mg (enteric coated) once daily.
• Take Plavix (Clopidogrel) 75mg once daily. 
• Continue all other medications you were taking before surgery, 
unless otherwise directed
• You make take Tylenol or prescribed pain medications for any 
post procedure pain or discomfort.

What activities you can and cannot do:
• When you go home, you may walk and go up and down stairs.
• You may shower (let the soapy water run over groin incision, 
rinse and pat dry)
• Your incision may be left uncovered, unless you have small 
amounts of drainage from the wound, then place a dry dressing or 
band aid over the area that is draining, as needed
• No heavy lifting, pushing or pulling (greater than 5 lbs) for 
1 week (to allow groin puncture to heal).
• After 1 week, you may resume sexual activity.
• After 1 week, gradually increase your activities and distance 
walked as you can tolerate.
• No driving until you are no longer taking pain medications

What to report to office:
• Changes in vision (loss of vision, blurring, double vision, 
half vision)
• Slurring of speech or difficulty finding correct words to use
• Severe headache or worsening headache not controlled by pain 
medication
• A sudden change in the ability to move or use your arm or leg 
or the ability to feel your arm or leg
• Trouble swallowing, breathing, or talking
• Numbness, coldness or pain in lower extremities 
• Temperature greater than 101.5F for 24 hours
• New or increased drainage from incision or white, yellow or 
green drainage from incisions
• Bleeding from groin puncture site

*SUDDEN, SEVERE BLEEDING OR SWELLING 
(Groin puncture site)
Lie down, keep leg straight and have someone apply firm pressure 
to area for 10 minutes. If bleeding stops, call our office. If 
bleeding does not stop, call ___ for transfer to closest 
Emergency Room!

 
Followup Instructions:
___